US07842688B2
b) tert-Butyl 3-[5-fluoro-2-(4-methoxybutyrylamino)benzyloxy]-4-{4-[3-(2-methoxybenzyloxy)propoxy]phenyl}piperidine-1-carboxylate
Analogously to Example 116b, 0.487 g of tert-butyl 3-(2-amino-5-fluorobenzyloxy)-4-{4-[3-(2-methoxybenzyloxy)propoxy]phenyl}piperidine-1-carboxylate and 0.322 g of 4-methoxybutyryl chloride are reacted. The title compound is obtained as a beige oil. Rf=0.22 (1:1 EtOAc-heptane); Rt=5.73.

reactant | tert-butyl 3-(2-amino-5-fluorobenzyloxy)-4-{4-[3-(2-methoxybenzyloxy)propoxy]phenyl}piperidine-1-carboxylate | 0.487 g | NC1=C(COC2CN(CCC2C2=CC=C(C=C2)OCCCOCC2=C(C=CC=C2)OC)C(=O)OC(C)(C)C)C=C(C=C1)F | C34H43FN2O6
reactant | 4-methoxybutyryl chloride | 0.322 g | COCCCC(=O)Cl | C5H9ClO2
product | tert-Butyl 3-[5-fluoro-2-(4-methoxybutyrylamino)benzyloxy]-4-{4-[3-(2-methoxybenzyloxy)propoxy]phenyl}piperidine-1-carboxylate | FC=1C=CC(=C(COC2CN(CCC2C2=CC=C(C=C2)OCCCOCC2=C(C=CC=C2)OC)C(=O)OC(C)(C)C)C1)NC(CCCOC)=O | C39H51FN2O8
